US07323455B2
N-[4-Bromo-2-(1-hydroxy-1-phenylethyl)phenyl]-2-chloroacetamide
Prepared from 1-(2-amino-5-bromophenyl)-1-phenylethanol and chloroacetyl chloride according to the acylation procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.42 (s, 1H), 7.93 (d, J=8.71 Hz, 1H), 7.64 (d, J=1.86 Hz, 1H), 7.52 (dd, J=1.77, 8.71 Hz, 1H), 7.33-7.18 (m, 5H), 6.99 (s, 1H), 4.17 (d, J=14.92 Hz, 1H), 3.99 (d, J=14.98 Hz, 1H), 1.84 (s, 3H); MS (ES) m/z 366/368/370 ([M−H]−, 100%); Anal. Calc. For C16H15BrClNO2: C, 52.13; H, 4.10; N, 3.80. Found: C, 52.18; H, 4.05; N, 3.77.

reactant | 1-(2-amino-5-bromophenyl)-1-phenylethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C1=CC=CC=C1 | C14H14BrNO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-[4-Bromo-2-(1-hydroxy-1-phenylethyl)phenyl]-2-chloroacetamide | BrC1=CC(=C(C=C1)NC(CCl)=O)C(C)(C1=CC=CC=C1)O | C16H15BrClNO2
